US08455646B2
Preparation of (4-methyl-benzylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C77)
To a solution of amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (I76) (100 mg, 0.38 mmol) in dry THF (3.84 mL), are added 4-methylbenzaldehyde (68 mL, 0.57 mmol) and AcOH (0.5 mL, 8.73 mmol). The mixture is stirred at RT and sodium triacetoxyborohydride (163 mg, 0.77 mmol) is added. The reaction is stirred at RT for 1.5 hours then cyclohexane is added and the mixture is evaporated to dryness. The crude is purified by flash chromatography (DCM/MeOH/NH4OH=95/5/0.5) to obtain the title compound as a colorless oil (76 mg, 54% yield, mixture of diastereoisomers).

reactant | amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 0.38 mmol, 100 mg | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)N)=O | C15H20N2O2
reactant | 4-methylbenzaldehyde | 0.57 mmol, 68 mL | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | AcOH | 8.73 mmol, 0.5 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.77 mmol, 163 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 3.84 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | (4-methyl-benzylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 76 mg, 54% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NCC2=CC=C(C=C2)C)=O | C23H28N2O2
